US05043345
5.10 A.3-(4-benzyloxy-1,2,5-thiadiazol-3-yl)pyridine
To a solution of sodium (490 mg, 2.5 mmol) in benzylalcohol (15 ml) was added 3-(4-chloro-1,2,5-thiadiazol-3-yl)pyridine (490 mg, 2.5 mmol). The mixture was stirred at 50° C. for 2 h and evaporated. The residue was dissolved in water and extracted with ether. The combined organic phases were dried and evaporated to give the wanted compound.

reactant | sodium | 2.5 mmol, 490 mg | [Na] | Na
reactant | 3-(4-chloro-1,2,5-thiadiazol-3-yl)pyridine | 2.5 mmol, 490 mg | ClC=1C(=NSN1)C=1C=NC=CC1 | C7H4ClN3S
reactant | benzylalcohol | 15 ml | C(C1=CC=CC=C1)O | C7H8O
product | 3-(4-benzyloxy-1,2,5-thiadiazol-3-yl)pyridine | C(C1=CC=CC=C1)OC=1C(=NSN1)C=1C=NC=CC1 | C14H11N3OS
